US07605118B2
A solution of 5-bromo-cyclooctene (5 g, 26 mmol; prepared by treatment of 1,5-cyclooctadiene with HBr in AcOH) in diethyl ether was added to magnesium (0.7 g, 29 mmol, 1.1 eq.). The resulting solution was cooled to 5° C. and treated dropwise with a solution of acetaldehyde (5 ml, 89 mmol, 3.4 eq.) in diethyl ether (10 ml). The resulting mixture was stirred 3 h at 20° C., treated with 2M HCl, and extracted with diethyl ether. The organic phases were washed successively with NaHCO3, NH4Cl and NaCl solutions, and dried (Na2SO4) and the solvent evaporated under vacuum. The crude product was purified by flash chromatography (hexane/Et2O 10:1) to give 1.2 g of 1-cyclooct-4-enylethanone (30%).

reactant | 5-bromo-cyclooctene | 26 mmol, 5 g | BrC1CCC=CCCC1 | C8H13Br
reactant | magnesium | 29 mmol, 0.7 g, 1.1 eq. | [Mg] | Mg
reactant | acetaldehyde | 89 mmol, 5 ml, 3.4 eq. | C(C)=O | C2H4O
reactant | HCl | 2M | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-cyclooct-4-enylethanone | 1.2 g, 30% | C1(CCC=CCCC1)C(C)=O | C10H16O
